US04680300
4.5 g of 1-(1-naphthyloxy)-8-(phenylamino)octane and 1.4 g of cyanogen bromide were heated in 150 ml of benzene at 55° for 2 hours. The benzene was then evaporated from the solution, affording 1-(1-naphthyloxy)-8-(phenylcyanoamino)octane which was employed in Step B (below) without further purification.

reactant | 1-(1-naphthyloxy)-8-(phenylamino)octane | 4.5 g | C1(=CC=CC2=CC=CC=C12)OCCCCCCCCNC1=CC=CC=C1 | C24H29NO
reactant | cyanogen bromide | 1.4 g | N#CBr | CBrN
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(1-naphthyloxy)-8-(phenylcyanoamino)octane | C1(=CC=CC2=CC=CC=C12)OCCCCCCCCN(C#N)C1=CC=CC=C1 | C25H28N2O
